US05872115
A mixture of 2-n-heptylamino-4H-3,1-benzoxazin-4-one (3.0 g, 10 mmol) and 4-amino-1-diphenylmethylpiperidine (3.0 g, 10 mmol) in toluene (20 ml) was refluxed for 3 hours and then concentrated. The residue was purified by column chromatography on silica gel (20% ethyl acetate in hexane) to give 2-(N'-n-heptylureido)-N-(1-diphenylmethylpiperidin-4-yl)benzamide (2.3 g, 40%): mp 182° C.; 1H NMR (CDCl3)ppm: 0.87 (3H, t), 1.27-1.30 (8H, m), 1.47-1.67 (4H, m), 1.95-2.12 (4H, m), 2.84 (2H, d), 3.24 (2H, q), 3.90-3.94 (1H, m), 4.26 (1H, s), 4.56 (1H, t), 6.09 (1H, d), 6.92-6.98 (1H, m), 7.16-7.44 (12H, m), 8.41 (1H, d), 10.26 (1H, s).

reactant | 2-n-heptylamino-4H-3,1-benzoxazin-4-one | 10 mmol, 3.0 g | C(CCCCCC)NC1=NC2=C(C(O1)=O)C=CC=C2 | C15H20N2O2
reactant | 4-amino-1-diphenylmethylpiperidine | 10 mmol, 3.0 g | NC1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H22N2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(N'-n-heptylureido)-N-(1-diphenylmethylpiperidin-4-yl)benzamide | 2.3 g, 40% | C(CCCCCC)NC(NC1=C(C(=O)NC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1)=O | C33H42N4O2
